US09034900B2
Step 1: 5-bromo-3-fluoro-1-methylpyridin-2-one
A mixture of 5-bromo-3-fluoropyridin-2-ol (1 g, 5.2 mmol), iodomethane (356 mg, 5.7 mmol) and K2CO3 (1.4 g, 10.4 mmol) in DMF (10 mL) was stirred at rt for 12 h. The mixture was treated with water (70 ml) and extracted with EtOAc (3×50 ml). The combined organic extracts were washed with saturated bicarbonate solution (aq), dried over sodium sulfate, filtered and concentrated in vacuo to afford the title compound (1 g, 93%) as a white solid which was carried forward without purification. LCMS (M+H)+=207.

reactant | 5-bromo-3-fluoropyridin-2-ol | 5.2 mmol, 1 g | BrC=1C=C(C(=NC1)O)F | C5H3BrFNO
reactant | iodomethane | 5.7 mmol, 356 mg | IC | CH3I
reactant | K2CO3 | 10.4 mmol, 1.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 70 ml | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-bromo-3-fluoro-1-methylpyridin-2-one | 1 g, 93% | BrC=1C=C(C(N(C1)C)=O)F | C6H5BrFNO
